US05840217
First 7.2 g of bromine and then a solution of 3.0 g of 2,2'-diacetyl-9,9'-spirobifluorene in a little dioxane are added dropwise at 0° C. while stirring to a solution of 6.0 g of sodium hydroxide in 30 ml of water. After stirring for a further hour at room temperature, the clear yellow solution is admixed with 1 g of sodium hydrogen sulfite dissolved in 20 ml of water. After acidification with concentrated hydrochloric acid, the precipitated colorless product is filtered off and washed with a little water. Recrystallization with ethanol gives 9,9'-spirobifluorene-2,2'-dicarboxylic acid as clear prisms (m.p. 352° C.).

reactant | bromine | 7.2 g | BrBr | Br2
reactant | 2,2'-diacetyl-9,9'-spirobifluorene | 3.0 g | C(C)(=O)C1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC(=CC13)C(C)=O | C29H20O2
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
reactant | sodium hydrogen sulfite | 1 g | S(=O)(O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9,9'-spirobifluorene-2,2'-dicarboxylic acid | C1=C(C=CC=2C3=CC=CC=C3C3(C12)C1=CC=CC=C1C=1C=CC(=CC13)C(=O)O)C(=O)O | C27H16O4
